US04667032
To a stirring solution of 1.1 kg of ceric ammonium nitrate in 12.5 liters of H2O and 1.25 liters of HOAc at 10° C. was added dropwise a solution of 100 g of phenothiazine in 500 ml acetone over a period of 20 minutes. The resulting mixture was stirred for another 20 minutes and the product 3H-phenothiazin-3-one was then filtered off. The filtered 3H-phenothiazin-3-one was washed with water thoroughly and dried to give 92 g of crude 3H-phenothiazin-3-one. The crude 3H-phenothiazin-3-one was extracted with minimum volume of CH2Cl2. Upon dilution of the CH2Cl2 solution with 10 times the volume of cyclohexane, a precipitate was formed which was filtered and dried to afford 35 g of 3H-phenothiazin-3-one.

reactant | phenothiazine | 100 g | C1=CC=CC=2SC3=CC=CC=C3NC12 | C12H9NS
reactant | H2O | 12.5 liters | O | H2O
solvent | HOAc | 1.25 liters | CC(=O)O | C2H4O2
solvent | acetone | 500 ml | CC(=O)C | C3H6O
product | 3H-phenothiazin-3-one | 92 g | C1=CC(C=C2SC3=CC=CC=C3N=C12)=O | C12H7NOS
